US05187156
A mixture of Boc-Gln-D-Trp(CHO)-Phe-OBzl (1.2 g) and 1N sodium hydroxide (3.6 ml) in a mixture of THF (30 ml), methanol (10 ml) and water (5 ml) was stirred for 1.5 hours. After adding water (10 ml), the organic solvent was evaporated. The resulting aqueous solution was washed with diethyl ether, acidified with 10% citric acid solution and allowed to stand in a refrigerator overnight. The precipitates were filtered, washed with water and recrystallized with a mixture of ethanol and water to give Boc-Gln-D-Trp-Phe-OH (0.80 g).

reactant | Boc-Gln-D-Trp(CHO)-Phe-OBzl | 1.2 g | N([C@@H](CCC(N)=O)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C38H43N5O8
reactant | sodium hydroxide | 1N, 3.6 ml | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | water | 5 ml | O | H2O
reactant | water | 10 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Boc-Gln-D-Trp-Phe-OH | 0.80 g | N([C@@H](CCC(N)=O)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C30H37N5O7
